US07968573B2
To a solution of 1.0 g of 3-chloro-2-(2-formyl-1H-pyrrol-1-yl)pyridine in 15 ml of N,N-dimethylformamide was added 0.68 g of N-chlorosuccinimide. The resulting mixture was stirred at 50° C. for 2 days. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate two times. The organic layers were combined, washed successively with water and an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.35 g of 4-chloro-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carbaldehyde of the formula:

reactant | 3-chloro-2-(2-formyl-1H-pyrrol-1-yl)pyridine | 1.0 g | ClC=1C(=NC=CC1)N1C(=CC=C1)C=O | C10H7ClN2O
reactant | N-chlorosuccinimide | 0.68 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-chloro-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carbaldehyde | 0.35 g | ClC=1C=C(N(C1)C1=NC=CC=C1Cl)C=O | C10H6Cl2N2O
